US07342127B2
4-(2,6-Dibromo-4-nitro-3-trifluoromethylphenoxy)-2-methyl-6-isopropylphenol of Part 11E (120 mg, 0.23 mmol) was dissolved in EtOH (5 mL) and sodium hydrosulfite (204 mg, 1.2 mmol) was added. The reaction mixture was heated at reflux for 48 hours. The reaction progress was monitored by TLC (n-heptane/EtOAc 65:35) and when complete diluted with EtOAc. The organic phase was washed with water, brine, dried over MgSO4 and concentrated. The residue was purified on column (silica gel, gradient elution with n-heptane/EtOAc) to give 90 mg (81%) of 4-(4-amino-2,6-dibromo-3-trifluoromethylphenoxy)-2-methyl-6-isopropylphenol.

reactant | 4-(2,6-Dibromo-4-nitro-3-trifluoromethylphenoxy)-2-methyl-6-isopropylphenol | BrC1=C(OC2=CC(=C(C(=C2)C(C)C)O)C)C(=CC(=C1C(F)(F)F)[N+](=O)[O-])Br | C17H14Br2F3NO4
reactant | sodium hydrosulfite | 1.2 mmol, 204 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | n-heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-amino-2,6-dibromo-3-trifluoromethylphenoxy)-2-methyl-6-isopropylphenol | 90 mg, 81% | NC1=C(C(=C(OC2=CC(=C(C(=C2)C(C)C)O)C)C(=C1)Br)Br)C(F)(F)F | C17H16Br2F3NO2
